US04709050
3-(3,5-di-tert-butyl-4-hydroxyphenyl)-1-n-octadecylpyrrolidine-2,5-dione
This compound is prepared by the procedure of Example 1 from 2.40 g (0.1 mol) of sodium hydride, 20.63 g (0.1 mol) of 2,6-di-tert-butylphenol, and 34.96 g (0.1 mole) of N-n-octadecylmaleimide in tert-butyl alcohol. The residue is purified by dry-column chromatography (3:1 heptane:ethyl acetate eluent) followed by recrystallization from petroleum ether to give 20.5 g (37%) of a white solid: mp 70°-73° C.

reactant | sodium hydride | 0.1 mol, 2.40 g | [H-].[Na+]
reactant | 2,6-di-tert-butylphenol | 0.1 mol, 20.63 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | N-n-octadecylmaleimide | 0.1 mole, 34.96 g | C(CCCCCCCCCCCCCCCCC)N1C(C=CC1=O)=O | C22H39NO2
solvent | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
product | 3-(3,5-di-tert-butyl-4-hydroxyphenyl)-1-n-octadecylpyrrolidine-2,5-dione | 20.5 g, 37% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1C(N(C(C1)=O)CCCCCCCCCCCCCCCCCC)=O | C36H61NO3
